US08633183B2
A-77) 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-chloro-benzoic acid
The title compound is synthesized according to general procedure GP8 starting from 3.3 g (8.4 mmol) 4-[5-(6-amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-chloro-benzoic acid methyl ester using 1.06 g (25.2 mmoL) LiOH in 20 mL water and 100 mL THF. The reaction mixture is stirred over night at 50° C. The solvent is removed under reduced pressure and the residue is taken up in water. Aqueous 1 M HCl is added until pH 5-6 is reached. The precipitated product is filtered off and washed with water and MeOH. After drying 2.5 g (89%) of the desired product are obtained as solid material.

reactant | 4-[5-(6-amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-chloro-benzoic acid methyl ester | 8.4 mmol, 3.3 g | COC(C1=C(C=C(C=C1)C1=NC=NC(=C1C#CC=1C=NC(=CC1)N)CC)Cl)=O | C21H17ClN4O2
reactant | LiOH | [Li+].[OH-]
solvent | water | 20 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-chloro-benzoic acid | NC1=CC=C(C=N1)C#CC=1C(=NC=NC1CC)C1=CC(=C(C(=O)O)C=C1)Cl | C20H15ClN4O2
